US04166115
Ethyl 2-(2-t-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylate (2.8 g.) and a solution of sodium hydroxide (0.54 g.) in water (20 ml.) were treated according to a similar manner to that of Preparation (6-5) to give brown powder of 2-(2-t-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylic acid (1.75 g.).

reactant | Ethyl 2-(2-t-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylate | 2.8 g | C(C)(C)(CC)OC(=O)NC=1SC=C(N1)C(C(=O)OCC)=O | C13H18N2O5S
reactant | sodium hydroxide | 0.54 g | [OH-].[Na+]
solvent | water | 20 ml | O | H2O
product | 2-(2-t-pentyloxycarbonylamino-1,3-thiazol-4-yl)glyoxylic acid | 1.75 g | C(C)(C)(CC)OC(=O)NC=1SC=C(N1)C(C(=O)O)=O | C11H14N2O5S
